US05013849
A mixture of 146.0 g (1.0 mole) of benzalacetone and 122.0 g (1.02 mole) 4-tolualdehyde (Compound II-A) was dissolved in 750 ml ethanol, and the solution was diluted with 200 ml water. With stirring, at room temperature, all at once, 100 ml of 10% NaOH solution were added. After 1.5 hours the thick, cream precipitate was filtered off, resuspended in 1 liter 20% ethanol in water, refiltered, sucked dry and recrystallized from ethanol/ethyl acetate to give 180 g of 1-phenyl-5-(4-tolyl)-1,4-pentadiene-3-one (Compound IV-A). The product structure was confirmed by field desorption mass spectrometry (FDMS) and infrared (IR) spectrometry.

reactant | benzalacetone | 1.0 mole, 146.0 g | C(C1=CC=CC=C1)=CC(C)=O | C10H10O
reactant | 4-tolualdehyde | 1.02 mole, 122.0 g | C1(=CC=C(C=C1)C=O)C | C8H8O
reactant | NaOH | 100 ml | [OH-].[Na+]
solvent | ethanol | 750 ml | C(C)O | C2H6O
solvent | water | 200 ml | O | H2O
product | 1-phenyl-5-(4-tolyl)-1,4-pentadiene-3-one | 180 g | C1(=CC=CC=C1)C=CC(C=CC1=CC=C(C=C1)C)=O | C18H16O
